US04616027
(B) 2-(2,4-Difluorophenyl)-3,3,4,4,4-pentafluoro-1-(1H-1,2,4-triazol-1-yl)-butan-2-ol
n-Butyl lithium (3.32 ml of a 1.5 molar solution in hexane; 0.00498 mole) in diethylether (5 ml) was cooled and stirred at -78° C. A solution of 2,4-difluorobromobenzene (1.0 g; 0.00519 mole) in ether (8 ml) was added slowly over 15 minutes. The reaction mixture was held for 15 minutes at -78° C. 1-Bromo-3,3,4,4,4-pentafluorobutanone (1.0 g; 0.00415 mole) in 6 ml of ether was then added over 15 minutes at -78° C. The mixture was stirred for 30 minutes at -78° C. Acetic acid (0.7 g) in ether (5 ml) was added followed by water (8 ml), and the mixture was allowed to warm to room temperature. The ether layer was separated and the aqueous layer was washed with 2×15 ml of ether. The combined ether layers were dried over magnesium sulphate and evaporated to give an oil. To this oil were added 1,2,4-triazole (0.86 g; 0.01245 mole); anhydrous potassium carbonate (5.73 g; 0.0415 mole) and anhydrous dimethylformamide (15 ml). The mixture was heated and stirred at 80° C. for 3.5 hours, cooled to room temperature and poured into 150 ml of water. The mixture was then extracted with 3×60 ml methylene chloride, and the combined organic extracts were dried over magnesium sulphate, evaporated and then co-distilled with xylene. The residual brown oil was chromatographed on silica (230-400 mesh) under pressure. Elution with a mixture of ethyl acetate/hexane (60/40 by volume) gave the title compound as a white solid (400 mgs; 28%), melting point 95°-6° C. after crystallization from cyclohexane.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,4-difluorobromobenzene | 0.00519 mole, 1.0 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | 1-Bromo-3,3,4,4,4-pentafluorobutanone | 0.00415 mole, 1.0 g | BrCC(C(C(F)(F)F)(F)F)=O | C4H2BrF5O
reactant | 1,2,4-triazole | 0.01245 mole, 0.86 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.0415 mole, 5.73 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | ether | 8 ml | CCOCC | C4H10O
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 8 ml | O | H2O
solvent | Acetic acid | 0.7 g | C(C)(=O)O | C2H4O2
product | 2-(2,4-Difluorophenyl)-3,3,4,4,4-pentafluoro-1-(1H-1,2,4-triazol-1-yl)-butan-2-ol | 400 mgs, 28% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C(F)(F)F)(F)F)O | C12H8F7N3O
